US06747023B1
Ethyl 4-(4,5-dihydroimidazol-2-yl)benzoate
The resulting ethyl 4-[1-(ethoxy)iminomethyl]benzoate hydrochloride (2.00 g) was dissolved in ethanol (30 ml). Under ice cooling, ethylenediamine (0.52 ml) was added to the resulting solution, followed by heating to room temperature. The reaction mixture was stirred overnight. To the residue obtained by distilling off the solvent under reduced pressure, dilute hydrochloric acid was added to make it acidic, followed by concentration again. The residue was purified by chromatography through a synthetic adsorbent (“Diaion HP-20”, trade name; water˜50% acetonitrile-water). Solution of hydochloride in ethanol was added to the resulting fraction and the mixture was concentrated. Colorless crystalline powder precipitated by the addition of tetrahydrofuran was collected by filtration and dried, whereby the title compound (1.63 g, 19%) was obtained.

reactant | ethyl 4-[1-(ethoxy)iminomethyl]benzoate hydrochloride | 2.00 g | Cl.C(C)ON=CC1=CC=C(C(=O)OCC)C=C1
reactant | ethylenediamine | 0.52 ml | C(CN)N | C2H8N2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Ethyl 4-(4,5-dihydroimidazol-2-yl)benzoate | 1.63 g, 19% | N1C(=NCC1)C1=CC=C(C(=O)OCC)C=C1 | C12H14N2O2
